US07582773B2
Step 5: Synthesis of [4-(1-Benzyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetonitrile.
The desired product was prepared using a procedure similar to step 5 of example 3. Thus, 4-(1-benzyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenol (0.295 g, 0.662 mmol) was reacted with K2CO3 (0.110 g, 0.794 mmol) and bromoacetonitrile (0.095 g, 0.794 mmol) in acetone (10 ml) to give the product (0.265 g, 0.547 mmol, 83%) as a waxy solid, mp 97-99° C. 1H NMR (DMSO-d6) δ 0.72 (t, J=7.0 Hz, 3H), 1.11-1.19 (m, 4H), 1.47-1.57 (m, 2H), 2.65 (t, J=7.6 Hz, 2H), 5.16 (s, 2H), 5.24 (s, 2H), 6.80 (d, J=6.7 Hz, 2H), 7.10-7.18 (m, 5H), 7.32-7.48 (m, 7H), 7.64 (d, J=8.9 Hz, 2H), 7.75 (s, 1H); [ESI(+)], m/z 486 (M+H)+.

reactant | 4-(1-benzyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenol | 0.662 mmol, 0.295 g | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)O)CCCCC)C1=CC=CC=C1 | C32H31NO
reactant | K2CO3 | 0.794 mmol, 0.110 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoacetonitrile | 0.794 mmol, 0.095 g | BrCC#N | C2H2BrN
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | [4-(1-Benzyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetonitrile | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(OCC#N)C=C1)CCCCC)C1=CC=CC=C1 | C34H32N2O
